US08247403B2
(1) tert-butyl 9-isoxazol-4-yl-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate
A mixture of tert-butyl 9-bromo-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate (200 mg, 0.605 mmol), 4-isooxazolylboronic acid pinacol ester (119 mg, 0.609 mmol), tripotassium phosphate (194 mg, 0.914 mmol), and [1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloride dichloromethane complex (24.9 mg, 0.0305 mmol) in dioxane (2 ml) was stirred at 85° C. for 12 hr under a nitrogen atmosphere. The reaction mixture was poured into water, and the mixture was extracted with ethyl acetate. The extract was washed with water, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (hexane:ethyl acetate=2:1) to give the desired product (120 mg, 62.2%) as an oil.

reactant | tert-butyl 9-bromo-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate | 0.605 mmol, 200 mg | BrC1=CC=CC=2CN(CCOC21)C(=O)OC(C)(C)C | C14H18BrNO3
reactant | 4-isooxazolylboronic acid pinacol ester | 0.609 mmol, 119 mg | O1N=CC(=C1)B1OC(C)(C)C(C)(C)O1 | C9H14BNO3
reactant | tripotassium phosphate | 0.914 mmol, 194 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | water | O | H2O
solvent | dioxane | 2 ml | O1CCOCC1 | C4H8O2
product | tert-butyl 9-isoxazol-4-yl-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate | 120 mg, 62.2% | O1N=CC(=C1)C1=CC=CC=2CN(CCOC21)C(=O)OC(C)(C)C | C17H20N2O4
